US06660744B1
A mixture of trifluoroacetic acid/dichloromethane (20:80, 7 mL) was added to a solution of trans-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)carbamate (250 mg, 0.451 mmol) in dichloromethane (4.0 mL) at 0° C. After 15 minutes, the ice-bath was removed and the reaction mixture was stirred at room temperature for 4 hours. Solvent was then evaporated and the residue was dissolved in dichloromethane. Saturated sodium bicarbonate was added to adjust the pH to 8. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated give trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (179 mg, 87%). 1H NMR (CDCl3) δ 1.56 (m, 2H), 2.15 (m, 7H), 2.31 (s, 3H), 2.51 (m, 4H), 2.67 (m, 4H), 3.88 (s, 3H), 4.16 (bs, 2H), 4.74 (m, 1H), 5.64 (bs, 2H), 6.56 (d, J=10.84 Hz, 1H), 6.88 (d, J=6.55 Hz, 1H), 8.33 (s, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+ =455.2, Rt=0.63 min.

reactant | trifluoroacetic acid dichloromethane | 7 mL | FC(C(=O)O)(F)F.ClCCl
reactant | trans-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)carbamate | 0.451 mmol, 250 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2F)NC(OC(C)(C)C)=O)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C28H39FN8O3
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 179 mg, 87% | NC1=CC(=C(C=C1OC)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)F | C23H31FN8O
